US09315491B2
4-[6-Chloro-5-methoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine
Morpholine (0.6 ml, 2.2 eq) was added to a stirred solution of 4,6-dichloro-5-methoxy-2-(4-nitrophenyl)pyrimidine (0.87 g, 1 eq) in THF, the mixture was stirred at r.t for 4 hrs, the solvent was evaporated, water was added to the solution and the solution was extracted with EA. The combined organic layers were washed with brine, dried and evaporated in vacuo, the product was obtained as a yellow solid (56%).

reactant | Morpholine | 0.6 ml, 2.2 eq | N1CCOCC1 | C4H9NO
reactant | 4,6-dichloro-5-methoxy-2-(4-nitrophenyl)pyrimidine | 0.87 g, 1 eq | ClC1=NC(=NC(=C1OC)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C11H7Cl2N3O3
solvent | THF | C1CCOC1 | C4H8O
product | 4-[6-Chloro-5-methoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine | 56% | ClC1=C(C(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1CCOCC1)OC | C15H15ClN4O4
